US08623896B2
To a solution of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-(1-oxo-thietan-3-yl)-benzamide (Example P2) (0.2 g) in dichloromethane (20 ml) was added trifluoroacetamide (0.09 g), rhodium(II) acetate dimer (0.02 g), magnesium oxide (0.07 g) and iodobenzene diacetate (0.19 g). The reaction mixture was stirred at ambient temperature for 42 hours. The reaction mixture was concentrated and the residue purified by chromatography on silica gel (eluent: ethyl acetate/heptane 1:1) to give 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-[1-oxo-1-(2,2,2-trifluoro-acetylimino)-thietan-3-yl]-benzamide (0.06 g) as an off-white powder. HPLC-MS: RT 2.14 min and 2.18 min (two isomers) MH+ 616.

reactant | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-(1-oxo-thietan-3-yl)-benzamide | 0.2 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NC2CS(C2)=O)C=C1)C)C(F)(F)F | C21H17Cl2F3N2O3S
reactant | trifluoroacetamide | 0.09 g | FC(C(=O)N)(F)F | C2H2F3NO
reactant | magnesium oxide | 0.07 g | [O-2].[Mg+2]
reactant | iodobenzene diacetate | 0.19 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | rhodium(II) acetate dimer | 0.02 g | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-[1-oxo-1-(2,2,2-trifluoro-acetylimino)-thietan-3-yl]-benzamide | 0.06 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NC2CS(C2)(=NC(C(F)(F)F)=O)=O)C=C1)C)C(F)(F)F | C23H17Cl2F6N3O4S
